US07160875B2
0.22g (0.52 mmol) (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid ethyl ester in 3 ml tetrahydrofurane was reacted with a solution of 0.02 g (0.52 mmol) lithium hydroxide monohydrate in 1 ml water at room temperature for 2 hours. Evaporation of the tetrahydrofurane, extraction with diethylether, acidification with 0.5 ml 1 N aqueous hydrochloric acid and extraction with ethylacetate gave 0.18 g (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid as white solid.

reactant | (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid ethyl ester | 0.52 mmol, 0.22g | C(C)OC([C@@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2)(C)F)=O | C24H25FN2O4
reactant | lithium hydroxide monohydrate | 0.52 mmol, 0.02 g | O.[OH-].[Li+]
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid | 0.18 g | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)O)(C)F)=O)C=CC=C3)C=CC=C2 | C22H21FN2O4
